US07160875B2
0.11 g (0.38 mmol) (S)-7-Amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one and 0.09 g (0.38 mmol) 3-oxo-3-(2,2,3,3,3-pentafluoro-propylamino)-propanoic acid in 10 ml tetrahydrofuran were reacted with 0.06 g (0.38 mmol) 1-hydroxybenzotriazole hydrate, 0.13 ul (0.76 mmol) diisopropylethylamine and 0.7 g (0.38 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid at 0° C. for 4 hours. After stirring at room temperature over night the solvent was removed by distillation and the residue purified by chromatography on silicagel with heptane/ethylacetate (gradient 100–0/0-100) to yield 0.17 g (89%) N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as white solid.

reactant | (S)-7-Amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one | 0.38 mmol, 0.11 g | N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2 | C18H18N2O
reactant | 3-oxo-3-(2,2,3,3,3-pentafluoro-propylamino)-propanoic acid | 0.38 mmol, 0.09 g | O=C(CC(=O)O)NCC(C(F)(F)F)(F)F | C6H6F5NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.38 mmol, 0.06 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.76 mmol, 0.13 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid | 0.38 mmol, 0.7 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.17 g, 89% | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC(CC(=O)NCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C24H22F5N3O3
